US08633189B2
To a microwave vial charged with 4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate (102 mg, 0.29 mmol), zinc cyanide (35 mg, 0.30 mmol) and Pd(PPh3)4 (21 mg, 0.02 mmol) under an N2 atmosphere was added DMF (500 μL). The reaction was heated under microwave irradiation at 130° C. for 30 min. The reaction was quenched with saturated aqueous Na2CO3 and extracted with ethyl acetate (3×10 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo to yield a brown oil. Purification by silica gel chromatography (0-15% ethyl acetate/hexanes) afforded 5-cyclopentyl-4-hydroxy-2-nitrobenzonitrile as a light yellow solid (40 mg, 58% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 11.62 (s, 1H), 7.84 (s, 1H), 7.70 (s, 1H), 3.29-3.24 (m, 1H), 1.99-1.93 (m, 2H), 1.78-1.76 (m, 2H), 1.66-1.57 (m, 4H).

reactant | 4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate | 0.29 mmol, 102 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C1CCCC1)(OC)=O | C13H14BrNO5
reactant | DMF | 500 μL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.30 mmol, 35 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.02 mmol, 21 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-cyclopentyl-4-hydroxy-2-nitrobenzonitrile | 40 mg, 58% yield | C1(CCCC1)C=1C(=CC(=C(C#N)C1)[N+](=O)[O-])O | C12H12N2O3
